US05114936
To a solution consisting of 5-(3-chloropropyl)-6,7-dihydro-3-phenyl-1,2-benzisoxazol-4(5H)-one (4.19 g) and DMF (150 ml) was added diisopropylethyl amine (6.31 ml), 4-(2-keto-1-benzimidazolinyl)piperidine (3.46 g) and sodium iodide (2.17 g) at room temperature with stirring. The reaction was heated at 78° C. under nitrogen atmosphere with stirring (11 hours). Upon cooling to room temperature, water and ethyl acetate were added to the reaction mixture. The layers were separated and the aqueous layer extracted three times with ethyl acetate and once with ether. The combined organic layers were washed with brine and dried (MgSO4). Filtration and concentration gave the crude product. Purification via flash chromatography (silica gel, 1% methanol/2% Et3N/ether) afforded 1.90 g of 6,7-dihydro-5-[3-(4-(2-keto-1-benzimidazolinyl)-1-piperidinyl)-propyl]-3-phenyl-1,2-benzisoxazol-4(5H)-one, m.p. 212°-218° C.

reactant | 5-(3-chloropropyl)-6,7-dihydro-3-phenyl-1,2-benzisoxazol-4(5H)-one | 4.19 g | ClCCCC1CCC2=C(C(=NO2)C2=CC=CC=C2)C1=O | C16H16ClNO2
reactant | diisopropylethyl amine | 6.31 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(2-keto-1-benzimidazolinyl)piperidine | 3.46 g | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | sodium iodide | 2.17 g | [I-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 6,7-dihydro-5-[3-(4-(2-keto-1-benzimidazolinyl)-1-piperidinyl)-propyl]-3-phenyl-1,2-benzisoxazol-4(5H)-one | 1.90 g | O=C1NC2=C(N1C1CCN(CC1)CCCC1CCC3=C(C(=NO3)C3=CC=CC=C3)C1=O)C=CC=C2 | C28H30N4O3
